US07842696B2
Sodium chlorite (1.45 g, 16.11 mmol) in 2 mL water was added at 0° C. to 2-fluoro-benzaldehyde (0.5 g, 4.03 mmol) in 5 mL acetone. After 5 minutes, sulphamic acid (1.17 gm, 12.086 mmol) was added and the resulting mixture was stirred at 0° C. for 20 minutes. Water was then added, and the resulting precipitate was filtered under reduced pressure. The aqueous layer was extracted with EtOAc and washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to afford 2-fluorobenzoic acid in 86% yield.

reactant | Sodium chlorite | 16.11 mmol, 1.45 g | Cl(=O)[O-].[Na+]
reactant | 2-fluoro-benzaldehyde | 4.03 mmol, 0.5 g | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | sulphamic acid | 12.086 mmol, 1.17 gm | S(N)(O)(=O)=O | H3NO3S
solvent | water | 2 mL | O | H2O
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 2-fluorobenzoic acid | 86% yield | FC1=C(C(=O)O)C=CC=C1 | C7H5FO2
